US07514448B2
N-(3-Methoxybenzyl)-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-3-carboxamide
N-(3-Methoxybenzyl)-5-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-3-carboxamide (70 mg, 0.14 mmol) was dissolved in THF (4 mL) and LiOH hydrate (42 mg, 1 mmol) was added in water (1 mL). The reaction mixture was heated to 150° C. in the microwave for 10 minutes. The reaction mixture was diluted with EtOAc and the organic layer was washed with 10% citric acid, saturated sodium bicarbonate, and then dried over sodium sulfate and concentrated to an oil, which was purified by column chromatography on silica (50 to 100% EtOAc/hexanes) to give the product as a white solid 30 mg, 0.083 mmol, 59%. 1H NMR 500 MHz (DMSO-d6) 12.00 (1H, s), 8.88 (1H, t), 8.32 (2H, m), 8.01 (1H, s), 7.87 (1H, s), 7.83 (1H, s), 7.26 (2H, m), 6.92 (2H, m), 6.93 (2H, m), 6.82 (1H, d), 4.43 (2H, d), 3.70 (3H, s). MH+ 364.10

reactant | N-(3-Methoxybenzyl)-5-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-3-carboxamide | 0.14 mmol, 70 mg | COC=1C=C(CNC(=O)C2=CSC(=C2)C2=CN(C3=NC=CC=C32)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C27H23N3O4S2
reactant | LiOH hydrate | 1 mmol, 42 mg | O[Li].O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Methoxybenzyl)-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-3-carboxamide | 0.083 mmol, 30 mg, 59% | COC=1C=C(CNC(=O)C2=CSC(=C2)C2=CNC3=NC=CC=C32)C=CC1 | C20H17N3O2S
